US06458798B1
(7-1) 3-(2-Amino-4-hydroxy-6-methlpyrimidine-5-yl)propanenitrile
A mixture of ethyl 2-(2-cyanoethyl)-3-oxobutanoate (9 g, 49 mmol), guanidine carbonate (5.30 g, 29.4 mmol) and pyridine (49 ml) was kept at 100° C. for 8 hours. The procedure according to pro-treatment of Reference-example 6 was carried out to give the object compound (3.38 g, 38.6%).

reactant | ethyl 2-(2-cyanoethyl)-3-oxobutanoate | 49 mmol, 9 g | C(#N)CCC(C(=O)OCC)C(C)=O | C9H13NO3
reactant | guanidine carbonate | 29.4 mmol, 5.30 g | C(O)(O)=O.NC(=N)N
solvent | pyridine | 49 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Amino-4-hydroxy-6-methlpyrimidine-5-yl)propanenitrile | 3.38 g, 38.6% | NC1=NC(=C(C(=N1)O)CCC#N)C | C8H10N4O
